US07932262B2
Step 1. Preparation of 2-Chloroquinazolin-8-ol
To a 0.55M solution of 2-chloro-8-methoxyquinazoline in DCM was added boron tribromide (2.2 eq. of a 1.0 M solution in DCM) over 5 minutes at 0° C. The reaction mixture was stirred at ambient temperature for 22 hours, and then cooled to −5° C. for 30 minutes. The precipitate was collected by vacuum filtration and then stirred in ice water for 30 minutes. The solid was collected by vacuum filtration and rinsed with 2-propanol. The off-white solid was dried in a desiccator to give the desired product in 79% yield. ES/MS m/z 181 (MH+).

reactant | 2-chloro-8-methoxyquinazoline | ClC1=NC2=C(C=CC=C2C=N1)OC | C9H7ClN2O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-Chloroquinazolin-8-ol | 79% yield | ClC1=NC2=C(C=CC=C2C=N1)O | C8H5ClN2O
